US06979690B2
Step 3. 6-Amino-5-chloro-N-[(1-{1-[(dimethylamino)carbonyl]pentyl}piperidin-4-yl)methyl]-2-methoxynicotinamide
To a solution of 2-[4-({[(6-amino-5-chloro-2-methoxypyridin-3-yl)carbonyl]amino}methyl)piperidine-1-yl]hexanoic acid (500 mg, 1.2 mmol) in dimethylformamide (30 ml) was added diethyl cyanophosphonate (300 mg, 1.8 mmol), N,N-dimethylamine hydrochloride (148 mg, 1.8 mmol) and N,N-diisopropylethylamine (0.63 ml, 3.6 mmol). The mixture was stirred for 72 h at room temperature. The mixture was concentrated in vacuo. The resultant amorphous solid was chromatographed on a column of silica gel eluting with dichloromethane/methanol (20:1) to give 55 mg (10%) of the title compound as a colorless amorphous solid.

reactant | 2-[4-({[(6-amino-5-chloro-2-methoxypyridin-3-yl)carbonyl]amino}methyl)piperidine-1-yl]hexanoic acid | 1.2 mmol, 500 mg | NC1=C(C=C(C(=N1)OC)C(=O)NCC1CCN(CC1)C(C(=O)O)CCCC)Cl | C19H29ClN4O4
reactant | diethyl cyanophosphonate | 1.8 mmol, 300 mg | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | N,N-dimethylamine hydrochloride | 1.8 mmol, 148 mg | Cl.CNC
reactant | N,N-diisopropylethylamine | 3.6 mmol, 0.63 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-Amino-5-chloro-N-[(1-{1-[(dimethylamino)carbonyl]pentyl}piperidin-4-yl)methyl]-2-methoxynicotinamide | 55 mg, 10% | NC1=NC(=C(C(=O)NCC2CCN(CC2)C(CCCC)C(=O)N(C)C)C=C1Cl)OC | C21H34ClN5O3
